US04818270
Ethyl 2-(1H-benzimidazol-1yl)-4-(trifluoromethyl)5-oxazolecarboxylate
A reaction vessel was charged with 5 g (21 mmol) ethyl 2-chloro-4-trifluoromethyl-5-oxazolecarboxylate and 4.96 g (42 mmol) benzimidazole. This mixture without solvent was heated at a temperature of about 100°-110° C. for 30 hours. The mixture was cooled to room temperature. This mixture was slurried in ethyl ether, washed with 5% hydrochloric acid, and then washed with large amounts of water, at which time a white precipitate began to form. A yellow filtrate was separated from 2.1 g of the precipitate (m.p. 133°-135° C.). The filtrate was concentrated under reduced pressure to provide 2.80 g of an off-white solid material (m.p. 132°-134° C.). This solid material and the white precipitate were combined and recrystallized from ethanol-water solution to give 4.03 g of an off-white solid product (m.p. 132°-134° C.) identified in Table I.

reactant | ethyl 2-chloro-4-trifluoromethyl-5-oxazolecarboxylate | 21 mmol, 5 g | ClC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5ClF3NO3
reactant | benzimidazole | 42 mmol, 4.96 g | N1=CNC2=C1C=CC=C2 | C7H6N2
solvent | ethyl ether | C(C)OCC | C4H10O
product | Ethyl 2-(1H-benzimidazol-1yl)-4-(trifluoromethyl)5-oxazolecarboxylate | 2.80 g | N1(C=NC2=C1C=CC=C2)C=2OC(=C(N2)C(F)(F)F)C(=O)OCC | C14H10F3N3O3
